US07977358B2
B] 3,5-Dimethyl-1-(4-methyl-3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
In analogy to the procedure described in Example 38A], (4-methyl-3-trifluoromethyl-phenyl)-hydrazine and ethyl diacetoacetate gave the title compound after crystallisation (EtOAc) in 96% yield as red oil. MS: 327.3 (MH+).

reactant | (4-methyl-3-trifluoromethyl-phenyl)-hydrazine | CC1=C(C=C(C=C1)NN)C(F)(F)F | C8H9F3N2
reactant | ethyl diacetoacetate | CCOC(=O)C(C(=O)C)C(=O)C | C8H12O4
product | 3,5-Dimethyl-1-(4-methyl-3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 96% yield | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=C(C=C1)C)C(F)(F)F)C | C16H17F3N2O2
